US04937330
Step A. (Sodium Thiofuroate)
60.0 g (0.250 mole, 1.39 eq) of sodium sulfide nonahydrate is dissolved in 508 ml of water. The solution is degassed by applying vacuum and releasing with nitrogen. The pH of the solution is adjusted to pH 10 by adding.85% phosphoric acid. 17 ml of ethyl acetate is added. 22.0 ml (density =1.324 29.1 g, 0.223 mole, 1.24 eq) of furoyl chloride is added dropwise while maintaining the pH of the solution at pH 9.0 to 9.5 by adding 25% sodium hydroxide solution. The furoyl chloride is rinsed in with 3 ml of ethyl acetate. Total addition time is approximately 30 minutes and the final temperature is 28°-30° C. When the reaction is complete, the pH is adjusted to pH 5.0 by adding 85% phosphoric acid and vacuum is applied to remove residual hydrogen sulfide After 10 minutes, the vacuum is released with nitrogen. When all of the hydrogen sulfide is removed, the solution is heated to 60° C. and the pH adjusted to 6.4 by adding a 25% sodium hydroxide solution.

reactant | sodium sulfide nonahydrate | 0.250 mole, 60.0 g, 1.39 eq | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | furoyl chloride | 0.223 mole, 22.0 ml, 29.1 g, 1.24 eq | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 508 ml | O | H2O
product | Sodium Thiofuroate | S1C(=CC=C1)C(=O)[O-].[Na+] | InChI=1S/C5H4O2S.Na/c6-5(7)4-2-1-3-8-4;/h1-3H,(H,6,7);/q;+1/p-1
